US09085583B2
To a solution of N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide (0.15 g, 0.485 mmol) in tetrahydrofuran (10 mL) was added sodium hydride (0.023 g, 0.582 mmol) at 0° C. The mixture was stirred at 0° C. for 30 minutes. Then benzenesulfonyl chloride (0.086 g, 0.485 mmol) was added to the mixture. The reaction was warmed to room temperature slowly and stirred for another 30 minutes. It was quenched by adding water (10 mL) slowly, and extracted by ethyl acetate (10 mL×3). The organic layer was dried and purified by Prep-HPLC to afford N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(phenylsulfonyl)-1H-indole-3-carboxamide (9 mg 4.1% yield). LRMS (M+H+) m/z: calcd 449.14. found 450. HPLC Purity (215 nm): 97%. 1H NMR (400 MHz, CDCl3): δ 8.25 (d, J=6.8 Hz, 1H), 7.81 (dd, J=8.4 Hz, J=0.8 Hz, 2H), 7.62-7.7.54 (m, 2H), 7.46-7.40 (m, 2H), 7.35-7.28 (m, 2H), 6.80 (t, J=6 Hz, 1H), 6.51 (s, 1H), 4.58 (d, J=4.6 Hz, 2H), 2.80 (s, 3H), 2.64 (s, 3H), 2.45 (s, 3H).

reactant | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide | 0.485 mmol, 0.15 g | CC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(NC2=CC=CC=C12)C | C18H19N3O2
reactant | sodium hydride | 0.582 mmol, 0.023 g | [H-].[Na+]
reactant | benzenesulfonyl chloride | 0.485 mmol, 0.086 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(phenylsulfonyl)-1H-indole-3-carboxamide | 9 mg, 4.1% yield | CC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1)C | C24H23N3O4S
